US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-acetylamino-3,5-dichloro-phenyl}-ethyl)-amino]-propane
A solution of 3 gm (0.0063 mol) of 1-[7,8-dimethoxy-1,3,4,5,-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4amino-3,5-dichloro-phenyl}ethyl)-amino]-propane in 50 ml of chloroform and 0.7 gm (0.007 mol) of triethylamine was mixed at the boiling point in portions with altogether about 0.8 ml of acetyl chloride. After boiling it for several hours, the reaction mixture was cooled to room temperature and washed with water. The aqueous phase was made strongly alkaline with 2N sodium hydroxide and extracted with methylene chloride. The separated organic phase was dried over sodium sulfate and evaporated. The crude product thus obtained was purified by chromatography on silica gel (particle size: 0.063 to 0.2 mm, eluant: methylene chloride/methanol=8:1).

reactant | 1-[7,8-dimethoxy-1,3,4,5,-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4amino-3,5-dichloro-phenyl}ethyl)-amino]-propane | 0.0063 mol, 3 gm | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)Cl)N)Cl)C)=O)C=C1OC | C24H31Cl2N3O3
reactant | triethylamine | 0.007 mol, 0.7 gm | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | about 0.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-acetylamino-3,5-dichloro-phenyl}-ethyl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)Cl)NC(C)=O)Cl)C)=O)C=C1OC | C26H33Cl2N3O4
